US07354934B2
Preparation of 2-methyl-5,6,7,8-tetrahydroquinolin-8-ylamine
N-(2-Methyl-5,6,7,8-tetrahydroquinolin-8-yl)acetamide (4.51 g, 22.1 mmol) was dissolved in 6 N HCl (40 mL). The mixture was heated at reflux for 17 h. The reaction mixture was cooled to room temperature, basified with saturated NaOH (pH>14) and extracted with chloroform (5×100 mL). The organic extracts were dried (MgSO4) and concentrated. The crude material was purified by distillation (bp 102-104° C. at 0.20 mm Hg) to yield the product as a clear liquid (3.25 g, 99%). 1H NMR (CDCl3, 300 MHz) δ 1.62-1.82 (m, 2H), 1.84-2.00 (m, 3H), 2.11-2.20 (m, 1H), 2.49 (s, 3H), 2.61-2.82 (m, 2H), 3.93-4.00 (m, 1H), 6.91 (d, 1H), J=7.8 Hz), 7.25 (d, 1H, J=7.8 Hz); 13C NMR (CDCl3) δ 20.4, 24.6, 29.1, 32.6, 51.8, 121.7, 128.6, 137.6, 155.9, 159.0; ES-MS m/z: 163 (M+H+), 146 (M-NH2).

reactant | N-(2-Methyl-5,6,7,8-tetrahydroquinolin-8-yl)acetamide | 22.1 mmol, 4.51 g | CC1=NC=2C(CCCC2C=C1)NC(C)=O | C12H16N2O
reactant | NaOH | pH>14 | [OH-].[Na+]
solvent | HCl | 6 N, 40 mL | Cl | ClH
product | 2-methyl-5,6,7,8-tetrahydroquinolin-8-ylamine | 3.25 g, 99% | CC1=NC=2C(CCCC2C=C1)N | C10H14N2
